US06566376B1
(a) Ethyl 2-(4-Chlorobenzyl)-1H-imidazole-5-carboxylate
4-Chloro-N-hydroxy-benzeneethanimidamide (1.0 g) and ethyl propiolate (0.53 g) were dissolved in methanol (20 ml), heated under reflux for 20 hours and cooled to room temperature. The residue was dissolved in diphenylether, heated under reflux for 1 hour, cooled to room temperature and iso-hexane (300 ml) added. A solid was produced which was collected by filtration, triturated under ether and dried to give the product as a solid (0.1 g).

reactant | 4-Chloro-N-hydroxy-benzeneethanimidamide | 1.0 g | ClC1=CC=C(C=C1)CC(NO)=N | C8H9ClN2O
reactant | ethyl propiolate | 0.53 g | C(C#C)(=O)OCC | C5H6O2
reactant | iso-hexane | 300 ml | CCCC(C)C | C6H14
solvent | methanol | 20 ml | CO | CH4O
solvent | diphenylether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | Ethyl 2-(4-Chlorobenzyl)-1H-imidazole-5-carboxylate | 0.1 g | ClC1=CC=C(CC=2NC(=CN2)C(=O)OCC)C=C1 | C13H13ClN2O2
